US08686005B2
5-Amino-6-nitro-isoindole-1,3-dione
The following procedure is our modification: A mixture of 5-chloro-6-nitroisoindoline-1,3-dione (28.0 g, 0.123 mol) and urea (73.8 g, 1.23 mol) was stirred at 150° C. for 6 h. Then the temperature was reduced to 90° C., water (400 mL) was added, the mixture was stirred overnight at RT. Precipitate was collected by filtration, water (300 mL) was added and stirred for 4 h at 95° C. The solid was collected by filtration and dried under vacuum. Yellow solid, 19.6 g (94.7 mmol, 77%). LCMS [M−H]− 205.9. 1H NMR (300 MHz, DMSO): δ 11.46 (s, 1H), 8.35 (s, 2H), 8.37 (s, 1H), 7.40 (s, 1H).

reactant | 5-chloro-6-nitroisoindoline-1,3-dione | 0.123 mol, 28.0 g | ClC=1C=C2C(NC(C2=CC1[N+](=O)[O-])=O)=O | C8H3ClN2O4
reactant | urea | 1.23 mol, 73.8 g | NC(=O)N | CH4N2O
solvent | water | 400 mL | O | H2O
product | 5-Amino-6-nitro-isoindole-1,3-dione | NC=1C=C2C(NC(C2=CC1[N+](=O)[O-])=O)=O | C8H5N3O4
